data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]C(=O)C1=C(C(=CC=C1COC2=CC=C(C=C2)C3=CC=C(C=C3)CC(=O)OCC=C)C(F)(F)F)OCC=C.CCOC(=O)N[N-:10]C(=O)OCC.CC(C)O[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C=CCOC1=C(C(=CC=C1C(F)(F)F)COC2=CC=C(C=C2)C3=CC=C(C=C3)CC(=O)OCC=C)C(=O)[O-:21].CC(C)O[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 10=20;20,21=21
[H:20][CH:21]=[C:22](C)[Br:23].CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C[C:22]#[CH:21].[Br-:23] 10=20;22,23=23;20,21=21,22
C1C[N:10]2CCN1CC2.C1=CC=C(C=C1)[CH2:20][Br:21]>>C1C[N+:10]2(CCN1CC2)[CH2:20]C3=CC=CC=C3.[Br-:21] 10=20;20,21=21
CCCCCCCC[C:20](=[O:21])Cl.CN(C)C1=CC=[N:10]C=C1.CC1(OC(=O)CC(=O)O1)C>>CCCCCCCC[C:20]([N+:10]1=CC=C(C=C1)N(C)C)([O-:21])Cl.CC1(OC(=O)CC(=O)O1)C 10=20;20,21=21
CC(C[CH:20](C[S:10]C1=CC=CC=C1)[OH2+:21])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(C[CH:20]1C[S+:10]1C2=CC=CC=C2)O.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=C(SC(=C3C)CCO)C(CCCOCC4=CC=CC=C4)[O-:10])CCO.CCO.C1=CC=C(C=C1)C=CC(=O)C2=CC=CC=C2.C1=CC(=NC=C1)C(=O)C=CC2=CC=CO2.[Br-]>>[H:20][O:10]C(CCCOCC1=CC=CC=C1)C2=[N+](C(=C(S2)CCO)C)CCC3=CC=C(C=C3)C[N+]4=CSC(=C4C)CCO.CC[N:21](CC)CC.CCO.C1=CC=C(C=C1)C=CC(=O)C2=CC=CC=C2.C1=CC(=NC=C1)C(=O)C=CC2=CC=CO2.[Br-] 10=20;20,21=21
[H:20][Cl:21].C1=CC=C(C=C1)C(=O)[CH2:10][Mg:11]Br>>[H:20][CH2:10]C(=O)C1=CC=CC=C1.[Mg+:11]Br.[Cl-:21] 10,11=10,20;20,21=21
[H:20][OH+:21]C(C)(O)Cl.[OH2:10]>>CC(O)([OH:21])Cl.[H:20][OH2+:10] 10=20;20,21=21
[H:20][O+:21](C)COCC.[Cl-:10]>>[H:20][Cl:10].CCOC[O:21]C 10=20;20,21=21
CC[N:10](CC)[C:20](C)(C)[OH2+:21]>>CC[N+:10](=[C:20](C)C)CC.[OH2:21] 10=20;20,21=21
[H:20][OH+:21]C.COC1=C(C=CC(=C1)C(O)([OH:10])OC)[NH3+].OS(=O)(=O)[O-]>>[H:20][OH+:10]C(C1=CC(=C(C=C1)[NH3+])OC)(O)OC.C[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
C[NH:10]CCC[CH:20](C1=CN=CC=C1)[Br:21].C(=O)(O)[O-]>>C[NH+:10]1CCC[CH:20]1C2=CN=CC=C2.C(=O)(O)[O-].[Br-:21] 10=20;20,21=21
CC[OH+:21][C:20](C)(O)[OH:10]>>CC[OH:21].C[C:20](=[OH+:10])O 10=20;20,21=21
C[C+:20](C)[S-:10]>>C[C:20](=[S:10])C 10=20,
C[C:20](=[OH+:21])S.[OH2:10]>>C[C:20]([OH2+:10])([OH:21])S 10=20;20,21=21
[H:20][OH+:21]C.CO[P:10](OC)Br>>[H:20][P+:10](OC)(OC)Br.C[OH:21] 10=20;20,21=21
CC[OH:10].C[CH+:20]CBr>>CC[OH+:10][CH:20](C)CBr 10=20,
[H:20][O:21]S(=O)(=O)O.C[C:11](=[CH2:10])CCCCO>>[H:20][CH2:10][C+:11](C)CCCCO.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:10][Al-:11](CCCC)(CC(C)C)CC(C)C.C[C:20](=[O:21])C=CC1=CC=CC=C1.[Li+]>>[H:10][C:20](C)(C=CC1=CC=CC=C1)[O-:21].CCCC[Al:11](CC(C)C)CC(C)C.[Li+] 10,11=10,20;20,21=21
C1CCC(C1)NC(=O)C(CC2=CC=CC=C2)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>C1CCC(C1)NC(=O)C(CC2=CC=CC=C2)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
CO[CH:20]=[OH+:21].[NH3:10].[Cl-]>>CO[CH:20]([NH3+:10])[OH:21].[Cl-] 10=20;20,21=21
CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.C1=CC=C(C=C1)CC(C[OH:10])NC(=O)C2=CC=CC=C2.CC(=O)[O-]>>CC(=O)O[I:20]1(C2=C(C=CC=C2)C(=O)O1)([OH+:10]CC(CC3=CC=CC=C3)NC(=O)C4=CC=CC=C4)OC(=O)C.CC(=O)[O-] 10=20,
C(C[OH:10])CCl.[O:21]=[S:20](Cl)Cl>>C(C[OH+:10][S:20]([O-:21])(Cl)Cl)CCl 10=20;20,21=21
[CH2:20]([OH:10])[F:21]>>[CH2:20]=[OH+:10].[F-:21] 10=20;20,21=21
C1C[N+:11]([CH:10](C2=C1SC=C2)C3=CC=CC=C3)(CCO)C#N.[Br-]>>C1=CC=C(C=C1)[CH+:10]C2=C(SC=C2)CC[N:11](CCO)C#N.[Br-] 10,11=11
CO[Si:20](C)(C)C.[Cl-:10]>>CO[Si-:20](C)(C)(C)[Cl:10] 10=20,
[H:20][O:21]C(=O)C(F)(F)F.CC1(CCCCC[O:10]1)O>>[H:20][O+:10]1CCCCCC1(C)O.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CN(CCC12OCC[O:10]2)C3=CC=C(C=C3)C#N.C1CCOC1.O>>[H:20][O+:10]1CCOC12CCN(CC2)C3=CC=C(C=C3)C#N.OS(=O)(=O)[O-:21].C1CCOC1.O 10=20;20,21=21
[H:20][C:21]12C(CNC(C1=C3C(=C([C:22]2=[O+:23]C)C)OCO3)COCC4=CC=CC=C4)OCC.[OH2:10].CCO.[Cl-]>>[H:20][OH2+:10].CCOC1CNC(C2=C3C(=C([C:22](=[C:21]12)[O:23]C)C)OCO3)COCC4=CC=CC=C4.CCO.[Cl-] 10=20;22,23=23;20,21=21,22
[H:20][O+:21]1CCCCC1CO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CC[O:21]C(C1)CO 10=20;20,21=21
[H:20][O:21][P+:22](C)(C)C.CS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C.C[P:22](=[O:21])(C)C 10=20;20,21=21,22
[H:20][C:21](CC(=O)C1=CC=CC=C1)([C:22](=[NH2+:23])C)C(=O)OCC.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CCOC(=O)[C:21](=[C:22](C)[NH2:23])CC(=O)C1=CC=CC=C1.O 10=20;22,23=23;20,21=21,22
[H:20][Cl:21].CC[OH:10]>>[H:20][OH+:10]CC.[Cl-:21] 10=20;20,21=21
[Li+:20].CCC1(C2=C(COC1=O)C=CC=C2)[O-:10].CC1=CC(=C(C(=C1)C)I)C>>[Li:20][O:10]C1(C2=C(COC1=O)C=CC=C2)CC.CC1=CC(=C(C(=C1)C)I)C 10=20,
C[CH:20]=[CH:21][C:22](=[O:23])OC.O[O-:10]>>C[CH:20]([CH:21]=[C:22]([O-:23])OC)[O:10]O 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)[S:21](=O)(=O)[N-:20][N:10]=CC2=CC=C(C=C2)OC.CC(C)(C)O>>CC1=CC=C(C=C1)[S-:21](=O)=O.COC1=CC=C(C=C1)C=[N+:10]=[N-:20].CC(C)(C)O 10=20;20,21=21
CCC1C=CC2C(C1[C:20]([O:21]2)(NN)[O-:10])CCCC#N.[NH3+]N>>CCC1C=CC(C(C1[C:20](=[O:10])NN)CCCC#N)[O-:21].[NH3+]N 10=20;20,21=21
[Li+:20].CCOC(C(C=C)[O-:10])OCC.CCCC[Sn](CCCC)(CCCC)CCCC>>[Li:20][O:10]C(C=C)C(OCC)OCC.CCCC[Sn](CCCC)(CCCC)CCCC 10=20,
